US06657060B2
In analogy to example 12c), by heating 2-[2-(4-dimethylamino-phenyl)-vinyl]-6-methyl-pyrimidin-4-ol (2 g, 7.8 mmol) in POCl3 (14.3 ml, 157 mmol) at 130° C. for 4.5 h there was obtained (E)-4-chloro-2-[2-(4-dimethylamino-phenyl)-vinyl]-6-methyl-pyrimidine (0.38 g, 18.5%) as a dark oil. EI mass spectrum, m/e: 273 (M calculated for C15H16ClN3: 273).

reactant | 2-[2-(4-dimethylamino-phenyl)-vinyl]-6-methyl-pyrimidin-4-ol | 7.8 mmol, 2 g | CN(C1=CC=C(C=C1)C=CC1=NC(=CC(=N1)O)C)C | C15H17N3O
reactant | POCl3 | 157 mmol, 14.3 ml | O=P(Cl)(Cl)Cl | Cl3OP
product | (E)-4-chloro-2-[2-(4-dimethylamino-phenyl)-vinyl]-6-methyl-pyrimidine | 0.38 g, 18.5% | ClC1=NC(=NC(=C1)C)\C=C\C1=CC=C(C=C1)N(C)C | C15H16ClN3
